US08623943B2
Monopotassium D-glucarate and sodium methoxide solution (NaOMe) (0.5 M in methanol) were commercial products. Methyl D-glucarate 1,4-lactone was prepared as previously described (Kiely, 1994). Some carbohydrate diacids and diamines or polyamines were prepared as needed. Other commercial chemicals and solvents were used without further purification. Solutions were concentrated in vacuo (15-20 mbar) using a rotary evaporator and water bath at 30° C. pH was estimated using pHydrion paper produced by Micro Essential Laboratory (Brooklyn, N.Y., USA).

reactant | Monopotassium D-glucarate | O=C([C@H](O)[C@@H](O)[C@H](O)[C@H](O)C(=O)[O-])O.[K+]
reactant | sodium methoxide | 0.5 M | C[O-].[Na+]
product | Methyl D-glucarate 1,4-lactone | COC(=O)[C@H]([C@@H]1[C@@H]([C@H](C(=O)O1)O)O)O | C7H10O7
